2118-02-23 07:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Delirium
   24 Hour Events:
   None
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2118-2-22**] 09:22 PM
   Lorazepam (Ativan) - [**2118-2-22**] 11:35 PM
   Metoprolol - [**2118-2-23**] 12:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-2-23**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 72 (61 - 87) bpm
   BP: 98/36(52) {92/36(52) - 163/94(110)} mmHg
   RR: 21 (12 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    620 mL
                                                                    210 mL
   Urine:
                                                                    470 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -620 mL
                                                                   -210 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General: Angry, agitated.  Eyes shut, does not open spontaneously to
   command.  Shouting nonsensically - often disinhibited and swearing at
   others.  Often shouting for "[**Doctor First Name **]" or "[**Doctor First Name 6287**]".  Repeats what is said
   to her in mocking tone.  Sometimes with word finding difficulties or
   replacement with similar sounding words.  At times when threatening
   speech.
   HEENT: Sclera anicteric, PERRL 4->3 though only can see eyes when lids
   forced open.  MMM, oropharynx clear.
   Neck: supple, JVP not elevated, no LAD.
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi,
   though poor insiratory effort and will only permit anterolateral exam
   currently.
   CV: Regular rate and rhythm, normal S1 + S2, [**3-12**] SM at LUSB without
   radiation.  L sided ICD with overlying ecchymosis, area somewhat firm,
   no erythema or warmth or fluctuance.  Ecchymosis over left
   chest/breast.
   Abdomen:  soft, appears non-tender, non-distended, bowel sounds
   present, no rebound tenderness or guarding, no organomegaly
   Ext: slightly cool, well perfused, 2+ DP pulses, no clubbing,
   cyanosis.  Trace LUE edema of upper arm, minimal LE edema.  R heel with
   deep decubitus with eschar.
   Neuro: unable to participate in exam.  Mental status and speech as
   above.  Moves all extremities, but unable to formally test strength.
   States she knows where she is and date but refuses to tell me.  States
   she has been in the hospital for ten years.
   Labs / Radiology
   232 K/uL
   11.7 g/dL
   72 mg/dL
   2.4 mg/dL
   26 mEq/L
   4.2 mEq/L
   39 mg/dL
   112 mEq/L
   149 mEq/L
   37.0 %
   13.1 K/uL
        [image002.jpg]
                             [**2118-2-22**]  06:00 PM
                             [**2118-2-22**]  06:28 PM
                             [**2118-2-23**]  05:47 AM
   WBC
   9.0
   13.1
   Hct
   36.3
   37.0
   Plt
   176
   232
   Cr
   2.4
   2.4
   Glucose
   231
   262
   72
   Other labs: PT / PTT / INR:10.6/22.8/0.9, ALT / AST:98/67, Alk Phos / T
   Bili:88/0.5, Differential-Neuts:73.3 %, Lymph:18.1 %, Mono:6.2 %,
   Eos:2.1 %, Albumin:3.4 g/dL, LDH:372 IU/L, Ca++:9.0 mg/dL, Mg++:2.6
   mg/dL, PO4:4.0 mg/dL
   Imaging: CXR: No acute cardiopulmonary process
   Microbiology: UA: mod bacteria, trace leuks.
   Assessment and Plan
   Assessment and Plan: 59F with CAD s/p multiple PCIs, ischemic CHF, Type
   I DM, Hx of Anoxic Brain Injury, Anxiety, Depression who presents with
   altered mental status sp ICD placement for ventricular tachycradia.
   .
   # Delerium: Most likley multifactorial in the setting of recent
   hosptialization, poor po intake, and benzodiazepines. After discussion
   with husband it is clear that at baseline patients thinking is clear
   and this is a major change. Husband notes [**Name2 (NI) 11416**] episodes of
   hallucination/agitation/anxiety while patient was in the ICU at
   [**Hospital1 954**] with intermittent lucidity. Patient has been afebrile.
   Reports of CT head with new ?stroke from prior in [**Month (only) 102**] at OSH. Pt
   with multiple psychiatric medication which were stopped at OSH with
   stated improvement. During her stay she recieved ativan prn agitation
   which her husband stated controlled her anxiety/agitation however often
   sedated her during the interum. Patient takes poor PO during this time
   and has denied PO meds here.
   -  Repeat CT Head
   - Normalize sleep wake cycle
   - Minimize sedating medications
   - Minimize IVF/Telemetry/Foley
   - Neuro consult sp CT Head.
   - Geriatrics AM.
   - Urinalysis
   - CXR
   - LFTS/Albumin
   - B12, Folate, RPR, TSH
   - Blood Cultures if patient spikes
   - FU CT Head from [**Hospital1 954**]. Report of new ?stroke in thalamus.
   .
   # Hypernatremia: Most likely secondary to hypovolemia. Patient not
   taking PO. Free Water deficit 2 Liters.
   - D5W at 75 cc hour for 2 liters.
   .
   # Ventricular arrhythmias sp ICD placement: EKG stable from prior.
   - Telemetery
   - Continue Beta Blocker, IV if not taking
   - Avoid QT prolonging medications.
   - Agressive repletion of potassium/magnesium
   .
   # Depression/Anxiety: Will DC Abilify/Remeron given current level of
   confusion.
   .
   # Pacer Pocket Hematoma: No warmth, erythema, or tenderness on
   palpation. Unlikely infection. No leukocytosis or fever. Follow for
   now.
   .
   # Elevated Liver Function: Elevated at outside hospital in setting of
   mexiletine. Trending down since mexiletine dc'd.
   - Trend LFTs
   .
   # CAD s/p multiple PCI.
   - Continue [**Last Name (LF) **], [**First Name3 (LF) 369**]
   .
   # Chronic systolic CHF, ischemic.
   - Continue Furosemide 40 mg IV daily.
 hold given minimal PO intake
   - Continue Metoprolol IV as above.
   .
   # Type 1 DM: Followed by [**Last Name (un) 276**]. Husband to bring in [**Last Name (un) 276**] Sliding
   Scale in AM. Last A1c 8.3%. On Levemir.
   - RISS and Glargine
   - Followed by [**Last Name (un) 276**], Notify practitioner that present.
   .
   # CKD: Baeline Creatinine has ranged 2.0 to 3.0 since [**2112**]. Secondary
   to Diabetes. Creatinine at baseline.
   - Trend Creatinine
   - Renally Dose Meds
   .
   # Hypothyroidism: On replacement. TSH elevated. T4 Elevated. Given
   elevated free t4 will decrease Synthroid replacement currently.
   .
   # Coccyx/Heel Ulcerations: Chronic. Husband provides wound care at home
   and notes stability of wounds. Right heel ulceration with some mild
   erythema. Patient afebrile without leukocytosis.
   - Wound care consult
   - Waffle Boots
   .
   # FEN: No IVF, replete electrolytes K>4 and Mag>2 , Cardiac/Diabetic
   diet
   # Prophylaxis: Subcutaneous heparin, Pneumoboots, PPI
   # Access: peripherals
   # Communication: Husband [**Name (NI) 6287**] [**Name (NI) **] [**Telephone/Fax (1) 11417**]; sister [**Name (NI) **] is HCP -
   [**Telephone/Fax (1) 11418**] or cell [**Telephone/Fax (1) 11419**].
   # Code:  Full (discussed with patient)
   # Disposition: To the Floor in AM.
   ICU Care
   Nutrition:
   Lines: Midline Today. Difficult IV access.
   22 Gauge - [**2118-2-22**] 06:00 PM
   Prophylaxis:
   DVT: Subcutaneous Heparin, Pneumoboots
   Stress ulcer: PPI
   Communication:  Comments:
   Code status: Full code
   Disposition: To Floor
   ------ Protected Section ------
   Physical Exam above is based on initial presentation. This AM patient
   sleeping/sedated. Decision made by team to wait and exam her when she
   was awake and interacitive.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2118-2-23**] 10:27 ------

2118-02-23 09:03:00 Physician Attending Progress Note
Chief Complaint: Delerium, ventricular tachycardia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Got 0.5mg Ativan overnight - slept overnight
   24 Hour Events:
 NASAL SWAB - At [**2118-2-22**] 06:40 PM
 EKG - At [**2118-2-22**] 08:18 PM
 URINE CULTURE - At [**2118-2-23**] 06:29 AM
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2118-2-22**] 09:22 PM
   Lorazepam (Ativan) - [**2118-2-22**] 11:35 PM
   Metoprolol - [**2118-2-23**] 12:20 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2118-2-23**] 09:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 72 (61 - 87) bpm
   BP: 98/36(52) {92/36(52) - 163/94(110)} mmHg
   RR: 21 (12 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    620 mL
                                                                    210 mL
   Urine:
                                                                    470 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -620 mL
                                                                   -210 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress, Somnolent
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, b/l LE boots on
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.7 g/dL
   232 K/uL
   72 mg/dL
   2.4 mg/dL
   26 mEq/L
   4.2 mEq/L
   39 mg/dL
   112 mEq/L
   149 mEq/L
   37.0 %
   13.1 K/uL
        [image002.jpg]
                             [**2118-2-22**]  06:00 PM
                             [**2118-2-22**]  06:28 PM
                             [**2118-2-23**]  05:47 AM
   WBC
   9.0
   13.1
   Hct
   36.3
   37.0
   Plt
   176
   232
   Cr
   2.4
   2.4
   Glucose
   231
   262
   72
   Other labs: PT / PTT / INR:10.6/22.8/0.9, ALT / AST:98/67, Alk Phos / T
   Bili:88/0.5, Differential-Neuts:73.3 %, Lymph:18.1 %, Mono:6.2 %,
   Eos:2.1 %, Albumin:3.4 g/dL, LDH:372 IU/L, Ca++:9.0 mg/dL, Mg++:2.6
   mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 DELIRIUM / CONFUSION
 IMPAIRED SKIN INTEGRITY
   Assessment and Plan: 59F with CAD s/p multiple PCIs, ischemic CHF, Type
   I DM, Hx of Anoxic Brain Injury, Anxiety, Depression who presents with
   altered mental status sp ICD placement for ventricular tachycradia.
   # Delerium: Will try to limit benzos during daytime, restore sleep/wake
   cycle if possible.  Repeat head CT - ?thalamic lesion at OSH.
   # Hypernatremia: free H20 repletion
   # Ventricular arrhythmias sp ICD placement/CAD: Cont b-blocker, tele.
   # Depression/Anxiety: D/C abilify/remeron
   # Coccyx/Heel Ulcerations: wound care consulted
   #DM1: followed by [**Last Name (un) 276**] - will let them know she is here.  On
   glargine/RISS.
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2118-2-22**] 06:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent:
   ------ Protected Section ------
   Met with pt
s husband and son today and reviewed [**Name (NI) **] course as
   well as their concerns over the ongoing severe delirium.  They
   confirmed that discussions were had regarding transitioning care to
   comfort measures, but they do not feel that this is warranted at this
   point given that her delirium may still be reversible.
   ------ Protected Section Addendum Entered By:[**Name (NI) 6010**] [**Name8 (MD) 6011**], MD
   on:[**2118-2-23**] 17:10 ------

2118-02-24 07:21:00 Physician Resident Progress Note
Chief Complaint: Altered mental status in the context of ICD placement.
   This 59 year-old woman with CAD and multiple PCIs, ischemic CHF, Type I
   DM, Hx of anoxic brain injury, anxiety, depression (prior to and
   worsened by hypoxic injury) presented yesterday with worsening mental
   status s/p ICD placement for ventricular tachycradia.
   24 Hour Events:
 BLOOD CULTURED - At [**2118-2-23**] 08:45 PM
 BLOOD CULTURED - At [**2118-2-23**] 09:00 PM
 FEVER - 101.4
F - [**2118-2-23**] 12:00 PM
   - Had persisting delirium and paranoia since awakening in morning and
   well into later evening. Changed Ativan 0.5-1mg q4hr.
   - Spiked fever to 101.4 at noon; urine and blood cultures obtained.
   Started on Vancomycin and Aztreonam (see below).
   - Spoke with patient's sister regarding her penicillin allergy
   ([**Telephone/Fax (1) 11419**]); "bad and *cannot* have it", likely anaphylaxis;
   verbally transferred healthcare proxy to [**Name (NI) 6287**] yesterday; she remains
   her legal proxy.
   - Spoke with radiology about CT head and negative per initial wet read.
   They did not note a thalamic lesion. Will follow up final read.
   - Psychiatry recommends Ativan 0.5mg IV q6 at this time for agitation,
   EP consultation ? IV Haldol, Neuro consultation ? new thalamic stroke,
   IV Depakote for impulse control.
   - EP recommended against giving Haldol.
   - Spoke with patient's cardiologist, Dr. [**First Name (STitle) 2807**] at [**Telephone/Fax (1) 11430**]; ICD is
   [**Company 2375**] [**Last Name (un) 2376**] 2DR.
   - Obtained EKG during the afternoon, QTc 413
   - Wound care recommendations and [**Last Name (un) 10345**] consult recommendations entered
   into POE. Regular insulin used as patient is essentially NPO. [**Last Name (un) 10345**]
   also recommends rechecking TSH, free T4 in one week.
   - Hypernatremia improving on PM electrolytes; 1/2 NS maintenance fluid.
   - CT head final read still pending; awaiting read to decide whether to
   consult Neurology.
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2118-2-23**] 09:00 PM
   Aztreonam - [**2118-2-23**] 11:29 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2118-2-23**] 10:35 PM
   Lorazepam (Ativan) - [**2118-2-24**] 03:21 AM
   Metoprolol - [**2118-2-24**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-2-24**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 38.6
C (101.4
   Tcurrent: 36.5
C (97.7
   HR: 83 (65 - 89) bpm
   BP: 160/54(81) {81/30(43) - 164/137(144)} mmHg
   RR: 14 (5 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,105 mL
                                                                    363 mL
   PO:
                                                                    960 mL
             TF:
   IVF:
                                                                  1,145 mL
                                                                    363 mL
   Blood products:
   Total out:
                                                                    360 mL
                                                                      0 mL
   Urine:
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,745 mL
                                                                    363 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   General: Angry, agitated.  Eyes shut, does not open spontaneously to
   command.  Shouting nonsensically - often disinhibited and swearing at
   others.  Often shouting for "[**Doctor First Name **]" or "[**Doctor First Name 6287**]".  Repeats what is said
   to her in mocking tone.  Sometimes with word finding difficulties or
   replacement with similar sounding words.  At times when threatening
   speech.
   HEENT: Sclera anicteric, PERRL 4->3 though only can see eyes when lids
   forced open.  MMM, oropharynx clear.
   Neck: supple, JVP not elevated, no LAD.
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi,
   though poor insiratory effort and will only permit anterolateral exam
   currently.
   CV: Regular rate and rhythm, normal S1 + S2, [**3-12**] SM at LUSB without
   radiation.  L sided ICD with overlying ecchymosis, area somewhat firm,
   no erythema or warmth or fluctuance.  Ecchymosis over left
   chest/breast.
   Abdomen:  soft, appears non-tender, non-distended, bowel sounds
   present, no rebound tenderness or guarding, no organomegaly
   Ext: slightly cool, well perfused, 2+ DP pulses, no clubbing,
   cyanosis.  Trace LUE edema of upper arm, minimal LE edema.  R heel with
   deep decubitus with escar. Right lower extremity edema: Absent, Left
   lower extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Normal, The major feature is her disturbed mental state: She is
   disheveled, uncooperative, restless, negative affect and low mood,
   confused with inappropriate and often non-sense anwers, thought content
   is grave, violent with clang and other unusual associations and without
   insight.
   Labs / Radiology
   210 K/uL
   11.0 g/dL
   357 mg/dL
   2.2 mg/dL
   23 mEq/L
   3.7 mEq/L
   37 mg/dL
   108 mEq/L
   144 mEq/L
   35.5 %
   15.0 K/uL
                             [**2118-2-22**]  06:00 PM
                             [**2118-2-22**]  06:28 PM
                             [**2118-2-23**]  05:47 AM
                             [**2118-2-23**]  08:30 PM
   WBC
   9.0
   13.1
   15.0
   Hct
   36.3
   37.0
   35.5
   Plt
   176
   232
   210
   Cr
   2.4
   2.4
   2.2
   Glucose
   [**Telephone/Fax (2) 11431**]7
   Other labs: PT / PTT / INR:10.6/22.8/0.9, ALT / AST:98/67, Alk Phos / T
   Bili:88/0.5, Differential-Neuts:73.3 %, Lymph:18.1 %, Mono:6.2 %,
   Eos:2.1 %, Albumin:3.4 g/dL, LDH:372 IU/L, Ca++:8.9 mg/dL, Mg++:2.4
   mg/dL, PO4:3.1 mg/dL
   Fluid analysis / Other labs: None.
   Imaging: CT pending but read as unchanged.
   Microbiology: Still pending. Antibiotic therapy is empiric.
   ECG: EKG in afternoon - normal QTc
   Assessment and Plan
 INEFFECTIVE COPING
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 DELIRIUM / CONFUSION
 IMPAIRED SKIN INTEGRITY
   Assessment and Plan: 59F with CAD s/p multiple PCIs, ischemic CHF, Type
   I DM, Hx of Anoxic Brain Injury, Anxiety, Depression who presents with
   altered mental status sp ICD placement for ventricular tachycradia.
   # Delerium: Most likley multifactorial in the setting of recent
   hosptialization, poor po intake, and benzodiazepines. After discussion
   with husband it is clear that at baseline patients thinking is clear
   and this is a major change. Husband notes [**Name2 (NI) 11416**] episodes of
   hallucination/agitation/anxiety while patient was in the ICU at
   [**Hospital1 954**] with intermittent lucidity. Patient has been afebrile.
   Reports of CT head with new ?stroke from prior in [**Month (only) 102**] at OSH. Pt
   with multiple psychiatric medication which were stopped at OSH with
   stated improvement. During her stay she recieved ativan prn agitation
   which her husband stated controlled her anxiety/agitation however often
   sedated her during the interum. Patient takes poor PO during this time
   and has denied PO meds here.
   -  Repeat CT Head
   - Normalize sleep wake cycle
   - Minimize sedating medications
   - Minimize IVF/Telemetry/Foley
   - Neuro consult sp CT Head.
   - Geriatrics AM.
   - Urinalysis
   - CXR
   - LFTS/Albumin
   - B12, Folate, RPR, TSH
   - Blood Cultures if patient spikes
   - FU CT Head from [**Hospital1 954**]. Report of new ?stroke in thalamus.
   # Hypernatremia: Most likely secondary to hypovolemia. Patient not
   taking PO. Free Water deficit 2 Liters.
   - D5W at 75 cc hour for 2 liters.
   # Ventricular arrhythmias sp ICD placement: EKG stable from prior.
   - Telemetery
   - Continue beta blocker, IV if not taking
   - Avoid QT prolonging medications.
   - Agressive repletion of potassium/magnesium
   # Depression/Anxiety: Will DC Abilify/Remeron given current level of
   confusion.
   # Pacer Pocket Hematoma: No warmth, erythema, or tenderness on
   palpation. Unlikely infection. No leukocytosis or fever. Follow for
   now.
   # Elevated Liver Function: Elevated at outside hospital in setting of
   mexiletine. Trending down since mexiletine dc'd.
   - Trend LFTs
   # CAD s/p multiple PCI.
   - Continue [**Last Name (LF) **], [**First Name3 (LF) 369**]
   # Chronic systolic CHF, ischemic.
   - Continue Furosemide 40 mg IV daily.
 hold given minimal PO intake
   - Continue Metoprolol IV as above.
   # Type 1 DM: Followed by [**Last Name (un) 276**]. Husband to bring in [**Last Name (un) 276**] Sliding
   Scale in AM. Last A1c 8.3%. On Levemir.
   - RISS and Glargine
   - Followed by [**Last Name (un) 276**], Notify practitioner that present.
   # CKD: Baeline Creatinine has ranged 2.0 to 3.0 since [**2112**]. Secondary
   to Diabetes. Creatinine at baseline.
   - Trend Creatinine
   - Renally Dose Meds
   # Hypothyroidism: On replacement. TSH elevated. T4 Elevated. Given
   elevated free t4 will decrease Synthroid replacement currently.
   # Coccyx/Heel Ulcerations: Chronic. Husband provides wound care at home
   and notes stability of wounds. Right heel ulceration with some mild
   erythema. Patient afebrile without leukocytosis.
   - Wound care consult
   - Waffle Boots
   # FEN: No IVF, replete electrolytes K>4 and Mag>2 , Cardiac/Diabetic
   diet
   # Prophylaxis: Subcutaneous heparin, Pneumoboots, PPI
   # Access: peripherals
   # Communication: Husband [**Name (NI) 6287**] [**Name (NI) **] [**Telephone/Fax (1) 11417**]; sister [**Name (NI) **] is HCP -
   [**Telephone/Fax (1) 11418**] or cell [**Telephone/Fax (1) 11419**].
   # Code:  Full (discussed with patient)
   # Disposition: To the Floor in AM.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2118-2-23**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2118-02-24 11:29:00 Physician Attending Progress Note
Chief Complaint: Delerium
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Started on vanc/aztreonam for fever spike in setting of heel ulcer
   Head CT: leukomalacia throughout (prelim)
   24 Hour Events:
 BLOOD CULTURED - At [**2118-2-23**] 08:45 PM
 BLOOD CULTURED - At [**2118-2-23**] 09:00 PM
 FEVER - 101.4
F - [**2118-2-23**] 12:00 PM
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2118-2-23**] 09:00 PM
   Aztreonam - [**2118-2-23**] 11:29 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2118-2-23**] 10:35 PM
   Lorazepam (Ativan) - [**2118-2-24**] 03:21 AM
   Metoprolol - [**2118-2-24**] 06:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Genitourinary: Foley
   Psychiatric / Sleep: Agitated
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2118-2-24**] 11:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.2
C (100.8
   HR: 77 (65 - 89) bpm
   BP: 148/64(86) {81/30(43) - 164/144(149)} mmHg
   RR: 20 (5 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,105 mL
                                                                    556 mL
   PO:
                                                                    960 mL
             TF:
   IVF:
                                                                  1,145 mL
                                                                    556 mL
   Blood products:
   Total out:
                                                                    360 mL
                                                                      0 mL
   Urine:
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,745 mL
                                                                    556 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, [**Doctor Last Name 9459**]/socks covering heels
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, more calm and
   coorperative at the moment
   [**Name (NI) 503**] / Radiology
   11.0 g/dL
   210 K/uL
   357 mg/dL
   2.2 mg/dL
   23 mEq/L
   3.7 mEq/L
   37 mg/dL
   108 mEq/L
   144 mEq/L
   35.5 %
   15.0 K/uL
        [image002.jpg]
                             [**2118-2-22**]  06:00 PM
                             [**2118-2-22**]  06:28 PM
                             [**2118-2-23**]  05:47 AM
                             [**2118-2-23**]  08:30 PM
   WBC
   9.0
   13.1
   15.0
   Hct
   36.3
   37.0
   35.5
   Plt
   176
   232
   210
   Cr
   2.4
   2.4
   2.2
   Glucose
   [**Telephone/Fax (2) 11431**]7
   Other [**Telephone/Fax (2) **]: PT / PTT / INR:10.6/22.8/0.9, ALT / AST:98/67, Alk Phos / T
   Bili:88/0.5, Differential-Neuts:73.3 %, Lymph:18.1 %, Mono:6.2 %,
   Eos:2.1 %, Albumin:3.4 g/dL, LDH:372 IU/L, Ca++:8.9 mg/dL, Mg++:2.4
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 DELIRIUM / CONFUSION
 IMPAIRED SKIN INTEGRITY
   Assessment and Plan: 59F with CAD s/p multiple PCIs, ischemic CHF, Type
   I DM, Hx of Anoxic Brain Injury, Anxiety, Depression who presents with
   altered mental status sp ICD placement for ventricular tachycradia.
   # Delerium: Appreciate psychiatry input.  Trying to act conservatively,
   restore sleep wake, minimize medications.  Will discuss with EP the
   possibility of Depakote
   #Fever: Infection could be feeding into delerium.  WBC elevated as
   well.  Cont treatment with vanc/aztreo.
   # Hypernatremia: Cont free H20 repletion - Na improving
   # Ventricular arrhythmias sp ICD placement/CAD: Cont b-blocker, tele.
   # Coccyx/Heel Ulcerations: wound care
   #DM1: followed by [**Last Name (un) 276**] - elevated sugar last PM on chemistries
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2118-2-23**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 31 minutes
   Patient is critically ill

2118-02-25 07:45:00 Physician Resident Progress Note
Chief Complaint:
   Altered mental status.
   59F with CAD s/p multiple PCIs, ischemic CHF, Type I DM, Hx of Anoxic
   Brain Injury, Anxiety, Depression who presents with altered mental
   status sp ICD placement for ventricular tachycradia.
   24 Hour Events:
 EKG - At [**2118-2-24**] 10:15 PM
   - EP morning recommendations: continue to hold off on Haloperidol;
   thinks that QTc is starting to normalize, but waiting to see EKG from
   today. EP has increased the backup pacing rate to 75 (to prevent escape
   PVCs); would like to see how long QT has progressed from outside
   hospital;
   - More disorganized behavior later in day
   - Complained of chest pain - EKG normal, enzymes sent - very soft ROMI,
   but Hx of CAD and difficult to get much detail about symptoms. Remained
   HD stable.
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2118-2-23**] 09:00 PM
   Aztreonam - [**2118-2-25**] 12:15 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2118-2-24**] 08:20 PM
   Lorazepam (Ativan) - [**2118-2-24**] 10:36 PM
   Heparin Sodium (Prophylaxis) - [**2118-2-25**] 12:37 AM
   Metoprolol - [**2118-2-25**] 04:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-2-25**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.9
C (98.4
   HR: 80 (75 - 91) bpm
   BP: 130/56(75) {90/28(42) - 184/144(149)} mmHg
   RR: 15 (11 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,684 mL
                                                                     50 mL
   PO:
                                                                    630 mL
             TF:
   IVF:
                                                                  1,054 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                    125 mL
                                                                      0 mL
   Urine:
                                                                    125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,559 mL
                                                                     50 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///22/
   Physical Examination
   General: Peaceful early today when home nurse (of 10 years) present.
   Later was delusion with behavioral outburst, but overall improved from
   admission (see neurologic below also).
   HEENT: Sclera anicteric, PERRL 4->3 though only can see eyes when lids
   forced open.  MMM, oropharynx clear.
   Neck: supple, JVP not elevated, no LAD.
   Lungs: Clear to auscultation anteriorly, without adventitious sounds.
   CV: Regular rate and rhythm, normal S1 + S2, [**3-12**] SM at LUSB without
   radiation.  L sided ICD with overlying ecchymosis, area somewhat firm,
   no erythema or warmth or fluctuance.  Ecchymosis over left
   chest/breast.
   Abdomen:  soft, appears non-tender, non-distended, bowel sounds
   present, no rebound tenderness or guarding, no organomegaly
   Ext: slightly cool, well perfused, 2+ DP pulses, no clubbing,
   cyanosis.  Trace LUE edema of upper arm, minimal LE edema.  R heel with
   deep decubitus with eschar.
   Neurologic: Alert. Oriented to person and variably to place. See mental
   status exam in previous note. Mental state bad last night, with general
   trend to improvement. Better in presence of husband and her own nurse
   (from home).
   Labs / Radiology
   280 K/uL
   10.0 g/dL
   99 mg/dL
   1.9 mg/dL
   22 mEq/L
   3.5 mEq/L
   32 mg/dL
   109 mEq/L
   142 mEq/L
   30.8 %
   10.6 K/uL
        [image002.jpg]
                             [**2118-2-22**]  06:00 PM
                             [**2118-2-22**]  06:28 PM
                             [**2118-2-23**]  05:47 AM
                             [**2118-2-23**]  08:30 PM
                             [**2118-2-25**]  03:48 AM
   WBC
   9.0
   13.1
   15.0
   10.6
   Hct
   36.3
   37.0
   35.5
   30.8
   Plt
   176
   232
   210
   280
   Cr
   2.4
   2.4
   2.2
   1.9
   TropT
   0.02
   Glucose
   [**Telephone/Fax (2) 11431**]7
   99
   Other labs: PT / PTT / INR:10.6/22.8/0.9, CK / CKMB /
   Troponin-T:76//0.02, ALT / AST:98/67, Alk Phos / T Bili:88/0.5,
   Differential-Neuts:73.3 %, Lymph:18.1 %, Mono:6.2 %, Eos:2.1 %,
   Albumin:3.4 g/dL, LDH:372 IU/L, Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
   Assessment and Plan: 59F with CAD s/p multiple PCIs, ischemic CHF, Type
   I DM, Hx of Anoxic Brain Injury, Anxiety, Depression who presents with
   altered mental status sp ICD placement for ventricular tachycradia.
   # Mental Status
   Worsened in the evening yesterday. See yesterday's note for discussion.
   Behaviorally difficult to manage last night - needed near constant
   supervision. Restraints avoided. Likely exacerbated by present
   infection.
   - Treat underlying infection
   - Wash out meds as much as possible and re-dose with help of psychiatry
   - wait for QTc to normalize, per EP
   - Measures to reduce invasive/tethering and delirium
   - Did not start depacote yesterday because we were concerned that it
   would take a while to have an effect and would not be so clear how this
   was helping
 today we see the wisdom and will d/w psychiatry further
   # Chest Pain and CAD
   Fleeting and unable to elicit all symptoms. Followed by brief nausea.
   EKG unremarkable, but could not draw enzymes until nearly 04:00 (not
   cooperative). Still some suspicion given history. Trop T is 0.02 this
   a.m. (negative in view of renal function).
   - One more set and EKG - continue rule-out if suspicion or further pain
   - Continue plavix and ASA (not been getting all given NPO)
   # Ventricular Arrhythmias / Torsades du pointes
   - Telemetery
   - Continue beta blocker, IV if not taking (order for PO also 50 mg [**Hospital1 **]
   was on 100 TID)
   - Avoid QT prolonging medications (EP reinforced this today
 no such
   medications until resolution of QTc, including Haldol)
   - Agressive repletion of potassium/magnesium (4.0 and 2.0)
   # Coccyx/Heel Ulcerations
   Chronic. Husband provides wound care at home and notes stability of
   wounds. Right heel ulceration with some mild erythema. Patient afebrile
   without leukocytosis.  Given signs of infection, diabetes and previous
   anaphylaxis with penicillin, will given vanc/aztreonam. Waffles boots
   in place.
   - Continue Vanc./Aztreonam
   # Pacer Pocket Hematoma
   Unlikely infected. Follow.
   # Depression/Anxiety
   - Hold Abilify/Remeron and redose medication when mental status stable
   and perhaps improved by treatment of underlying cause.
   # Elevated Liver Function
   Continued to resolve. Trending down since mexiletine dc'd.
   - Add-on for this a.m.
   # Chronic systolic CHF, ischemic.
   - Hold furosemide for now given minimal PO intake
   - Continue Metoprolol IV as above.
   # Type 1 DM
   Followed by [**Last Name (un) 276**]. Husband to bring in [**Last Name (un) 276**] Sliding Scale in AM.
   Last A1c 8.3%. On Levemir.
   - RISS only glargine 10 HS given near NPO
 will need to be increased
   as diet increases.
   - Followed by [**Last Name (un) 276**], Notify practitioner that present.
   # CKD
   Baseline Creatinine has ranged 2.0 to 3.0 since [**2112**]. Secondary to
   Diabetes. Creatinine at baseline.
   # Hypothyroidism: On replacement. TSH elevated. T4 Elevated. Synthroid
   decreased yesterday to 88 mcg QD.
   # Medications
   - Attempt transition back to oral agents.
   # FEN: No IVF, replete electrolytes K>4 and Mag>2 , Cardiac/Diabetic
   diet
   # Prophylaxis: Subcutaneous heparin, Pneumoboots, PPI
   # Access: peripherals
   # Communication: Husband [**Name (NI) 6287**] [**Name (NI) **] [**Telephone/Fax (1) 11417**]; sister [**Name (NI) **] is HCP -
   [**Telephone/Fax (1) 11418**] or cell [**Telephone/Fax (1) 11419**].
   # Code:  Full (Please check this s/p family discussion this afternoon)
   # Disposition: To the Floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2118-2-23**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2118-02-25 09:52:00 Physician Attending Progress Note
Chief Complaint: Delerium
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Ongoing delerium overnight - did articulate some chest pain.  EKG
   unchanged, cardiac enzymes being cycled
   24 Hour Events:
 EKG - At [**2118-2-24**] 10:15 PM
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2118-2-23**] 09:00 PM
   Aztreonam - [**2118-2-25**] 12:15 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2118-2-24**] 08:20 PM
   Lorazepam (Ativan) - [**2118-2-24**] 10:36 PM
   Heparin Sodium (Prophylaxis) - [**2118-2-25**] 12:37 AM
   Metoprolol - [**2118-2-25**] 04:10 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: No(t) Tachycardia
   Respiratory: No(t) Tachypnea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2118-2-25**] 09:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 38
C (100.4
   Tcurrent: 36.9
C (98.4
   HR: 90 (75 - 91) bpm
   BP: 142/67(86) {90/28(42) - 184/96(107)} mmHg
   RR: 17 (11 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,684 mL
                                                                     50 mL
   PO:
                                                                    630 mL
             TF:
   IVF:
                                                                  1,054 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                    125 mL
                                                                      0 mL
   Urine:
                                                                    125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,559 mL
                                                                     50 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, Remains very
   confused
   Labs / Radiology
   10.0 g/dL
   280 K/uL
   99 mg/dL
   1.9 mg/dL
   22 mEq/L
   3.5 mEq/L
   32 mg/dL
   109 mEq/L
   142 mEq/L
   30.8 %
   10.6 K/uL
        [image002.jpg]
                             [**2118-2-22**]  06:00 PM
                             [**2118-2-22**]  06:28 PM
                             [**2118-2-23**]  05:47 AM
                             [**2118-2-23**]  08:30 PM
                             [**2118-2-25**]  03:48 AM
   WBC
   9.0
   13.1
   15.0
   10.6
   Hct
   36.3
   37.0
   35.5
   30.8
   Plt
   176
   232
   210
   280
   Cr
   2.4
   2.4
   2.2
   1.9
   TropT
   0.02
   Glucose
   [**Telephone/Fax (2) 11431**]7
   99
   Other labs: PT / PTT / INR:10.6/22.8/0.9, CK / CKMB /
   Troponin-T:76//0.02, ALT / AST:98/67, Alk Phos / T Bili:88/0.5,
   Differential-Neuts:73.3 %, Lymph:18.1 %, Mono:6.2 %, Eos:2.1 %,
   Albumin:3.4 g/dL, LDH:372 IU/L, Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 DELIRIUM / CONFUSION
 IMPAIRED SKIN INTEGRITY
   Assessment and Plan: 59F with CAD s/p multiple PCIs, ischemic CHF, Type
   I DM, Hx of Anoxic Brain Injury, Anxiety, Depression who presents with
   altered mental status sp ICD placement for ventricular tachycradia.
   # Delerium: Continues to [**Known lastname **] and wane - has had low doses of benzos.
   Appreciate ongoing psych input - did not give Depakote last PM but will
   discuss giving tonight
   #Fever: WBC down. Cont vanc/aztreo for 14 day course.  No new blood
   culture data, will culture wound.
   # Hypernatremia: Improved
   # Ventricular arrhythmias sp ICD placement/CAD: Switch b-blocker to
   po.  Cont to cycle cardiac enzymes
   # Coccyx/Heel Ulcerations: wound care.  Abx as above
   #DM1: followed by [**Last Name (un) 276**]
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2118-2-23**] 04:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor